US07763657B2
Step 5: (4-Amino-3-trifluoromethyl-5-vinylbenzyl)carbamic acid tert-butyl ester
Pd(PPh3)4 (0.06 eq, 0.014 mmol, 16.64 mg) and LiCl (2.8 eq, 0.67 mmol, 28.49 mg) were added into DMF. (4-Amino-3-iodo-5-trifluoromethylbenzyl)carbamic acid tert-butyl ester (100 mg, 0.24 mmol) and tributylvinyltin (1.5 eq, 0.36 mmol, 105.37 μl) were added into the reaction mixture. The reaction mixture was stirred for 12 ha in reflux. The reaction mixture was purified according to step 4 of Example 8 to give a title product, yellow syrup (51.5 mg, 67.87%).

reactant | LiCl | 0.67 mmol, 28.49 mg, 2.8 eq | [Li+].[Cl-]
reactant | (4-Amino-3-iodo-5-trifluoromethylbenzyl)carbamic acid tert-butyl ester | 0.24 mmol, 100 mg | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)C(F)(F)F)N)I)=O | C13H16F3IN2O2
reactant | tributylvinyltin | 0.36 mmol, 105.37 μl, 1.5 eq | C(CCC)C(=C(CCCC)CCCC)[Sn]
catalyst | Pd(PPh3)4 | 0.014 mmol, 16.64 mg, 0.06 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-Amino-3-trifluoromethyl-5-vinylbenzyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)C=C)N)C(F)(F)F)=O | C15H19F3N2O2
